US06927228B2
(h) N-[4″-(2,4-dioxothiazolidin-5-ylmethyl)-[1,1′;3′,1″]terphenyl-5′-ylmethyl]-N-methyloctanamide
In a manner similar to that of Example 1(g), starting with 370 mg (7 mmol) of N-[4″-(2,4-dioxothiazolidin-5-ylidene-methyl)[1,1′;3′,1″]terphenyl-5′-ylmethyl]-N-methyl-octanamide in 5 ml of dioxane and under 3 atm of hydrogen, and after purification by chromatography on a column of silica eluted with a heptane/ethyl acetate mixture (6/4), 170 mg (47%) of N-[4″-(2,4-dioxo-thiazolidin-5-ylmethyl)[1,1′;3′,1″]terphenyl-5′-yl-methyl]-N-methyloctanamide are obtained in the form of a pale yellow foam.

reactant | N-[4″-(2,4-dioxothiazolidin-5-ylidene-methyl)[1,1′;3′,1″]terphenyl-5′-ylmethyl]-N-methyl-octanamide | 7 mmol, 370 mg | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C=1C=C(C=C(C1)CN(C(CCCCCCC)=O)C)C1=CC=CC=C1 | C32H34N2O3S
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-[4″-(2,4-dioxothiazolidin-5-ylmethyl)-[1,1′;3′,1″]terphenyl-5′-ylmethyl]-N-methyloctanamide | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C=1C=C(C=C(C1)CN(C(CCCCCCC)=O)C)C1=CC=CC=C1 | C32H36N2O3S
